US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide
A solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid (0.400 g, 1.08 mmol) in tetrahydrofuran is treated with 1,1'-carbonyldiimidazole (0.260 g, 1.58 mmol), stirred at room temperature for 30 minutes, refluxed for 2 hours, cooled to room temperature, treated dropwise with a solution of methanesulfonamide (0.130 g, 1.37 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.230 g, 1.50 mmol), stirred at room temperature for 3 hours, and poured into 0.5 N hydrochloric acid. The resultant aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and a methylene chloride/acetic acid solution (10:1) gives the title product as a white solid (0.350 g, 72%, mp 241-243° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 1.08 mmol, 0.400 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
reactant | 1,1'-carbonyldiimidazole | 1.58 mmol, 0.260 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 1.37 mmol, 0.130 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.50 mmol, 0.230 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride acetic acid | C(Cl)Cl.C(C)(=O)O
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide | 0.350 g, 72% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)NS(=O)(=O)C)C1)=O | C15H11F3N4O5S2
